2177-02-04 09:05:00 Physician Attending Progress Note
Chief Complaint: GI Bleed
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   52 yo F DM1, CABG, Vasculopathy, initially admitted to vascular service
   for LE ulcers.  Hospital course c/b altered mental status, respiratory
   failure improving after thoracentesis of pleural effusion, persistently
   elevated WBC.  She was transferred to ICU after she started to pass
   blood clots from below w SBP in 90s.
   Current problems:
   GIB (likely lower)
   Vasculopathy
   Renal failure on chronic HD
   24 Hour Events:
 PICC LINE - START [**2177-2-3**] 06:29 PM
 EKG - At [**2177-2-4**] 02:00 AM
   Overnight: persistent oozing. Cordis placement attempted L IJ but
   unable to thread wire.  Currently has double lumen picc and HD line for
   access.  Has remained hemodynamically stable.  Received 2u pRBCs.  Held
   her subQ heparin.  GI following, patient with negative NG lavage and
   started on bowel prep with plans for colonoscopy in ICU.
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   Darvon (Oral) (Propoxyphene Hcl)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Ciprofloxacin - [**2177-2-3**] 10:47 PM
   Metronidazole - [**2177-2-4**] 12:39 AM
   Infusions:
   Other ICU medications:
   Other medications:
   remeron
   cipro
   vanc 1 g w HD
   Flagyl 500 q 8
   Flucinolide
   Colace
   calcium acetate
   nephrocaps
   lipitor
   insulin lantus and sliding scale
   zofran
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2177-2-4**] 09:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**78**] AM
   Tmax: 35.6
C (96.1
   Tcurrent: 35.4
C (95.7
   HR: 68 (67 - 76) bpm
   BP: 133/55(75) {113/18(44) - 168/137(146)} mmHg
   RR: 26 (14 - 40) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
           Total In:
                                                                  1,075 mL
                                                                  3,881 mL
   PO:
           3,500 mL
   TF:
   IVF:
                                                                    700 mL
                                                                    100 mL
   Blood products:
                                                                    375 mL
                                                                    281 mL
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,075 mL
                                                                  3,881 mL
   Respiratory support
   SpO2: 100%
   ABG: ///28/
   Physical Examination
   General Appearance: Thin, Anxious
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Poor dentition
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Absent), (Left radial pulse:
   Absent), (Right DP pulse: Absent), (Left DP pulse: Absent)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent, necrotic toes distally
   Musculoskeletal: Muscle wasting, Unable to stand
   Skin:  Cool
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   9.9 g/dL
   276 K/uL
   149 mg/dL
   3.1 mg/dL
   28 mEq/L
   4.8 mEq/L
   25 mg/dL
   102 mEq/L
   140 mEq/L
   32.5 %
   19.3 K/uL
        [image002.jpg]
                             [**2177-2-4**]  12:01 AM
                             [**2177-2-4**]  01:50 AM
                             [**2177-2-4**]  05:37 AM
   WBC
   16.9
   19.3
   Hct
   31.3
   32.5
   Plt
   282
   276
   Cr
   3.0
   3.1
   TropT
   0.95
   Glucose
   184
   149
   Other labs: PT / PTT / INR:15.3/34.3/1.3, CK / CKMB /
   Troponin-T:42//0.95, Lactic Acid:1.0 mmol/L, Ca++:8.3 mg/dL, Mg++:1.8
   mg/dL, PO4:2.3 mg/dL
   Assessment and Plan
   1. Hematochezia:  With negative NG lavage most likely lower GIB, stable
   s/p 2 u pRBCs, awaiting colonoscopy
    - prepped for colonoscopy this morning
    - f/u q 8 hr hct
    - cont PPI, IVPPI not indicated
    - previously on asa/plavix, being held at the moment in setting of
   bleed
    - will await [**Last Name (un) **] results and then d/w vascular re when to restart
   asa/plavix
    - access is HD line and PICC
   2. Leukocytosis: with sacral ulcer and necrotic toes most likely
   source, on vanc/cipro/flagyl
    - cont abx per ID
    - surveillance cx given bump in wbc (which is likely stress response)
   3. ESRD:
    - on HD, renally dose all meds
   4. DM1:
    - NPO for now, on 'bedtime' insulin dosing
   5. S/p L fempop: vasc following
   6. Pain: [**1-14**] sacral decub: getting dilaudid 0.25 prn
   7. FEN: npo for now, adat post colonoscopy
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2177-2-3**] 06:29 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2177-02-04 16:24:00 Physician Attending Progress Note
Chief Complaint: GI Bleed
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   52 yo F DM1, CABG, Vasculopathy, initially admitted to vascular service
   for LE ulcers.  Hospital course c/b altered mental status, respiratory
   failure improving after thoracentesis of pleural effusion, persistently
   elevated WBC.  She was transferred to ICU after she started to pass
   blood clots from below w SBP in 90s.
   Current problems:
   GIB (likely lower)
   Vasculopathy
   Renal failure on chronic HD
   24 Hour Events:
 PICC LINE - START [**2177-2-3**] 06:29 PM
 EKG - At [**2177-2-4**] 02:00 AM
   Overnight: persistent oozing. Cordis placement attempted L IJ but
   unable to thread wire.  Currently has double lumen picc and HD line for
   access.  Has remained hemodynamically stable.  Received 2u pRBCs.  Held
   her subQ heparin.  GI following, patient with negative NG lavage and
   started on bowel prep with plans for colonoscopy in ICU.
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   Darvon (Oral) (Propoxyphene Hcl)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Ciprofloxacin - [**2177-2-3**] 10:47 PM
   Metronidazole - [**2177-2-4**] 12:39 AM
   Infusions:
   Other ICU medications:
   Other medications:
   remeron
   cipro
   vanc 1 g w HD
   Flagyl 500 q 8
   Flucinolide
   Colace
   calcium acetate
   nephrocaps
   lipitor
   insulin lantus and sliding scale
   zofran
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2177-2-4**] 09:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**78**] AM
   Tmax: 35.6
C (96.1
   Tcurrent: 35.4
C (95.7
   HR: 68 (67 - 76) bpm
   BP: 133/55(75) {113/18(44) - 168/137(146)} mmHg
   RR: 26 (14 - 40) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
           Total In:
                                                                  1,075 mL
                                                                  3,881 mL
   PO:
           3,500 mL
   TF:
   IVF:
                                                                    700 mL
                                                                    100 mL
   Blood products:
                                                                    375 mL
                                                                    281 mL
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,075 mL
                                                                  3,881 mL
   Respiratory support
   SpO2: 100%
   ABG: ///28/
   Physical Examination
   General Appearance: Thin, Anxious
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Poor dentition
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Absent), (Left radial pulse:
   Absent), (Right DP pulse: Absent), (Left DP pulse: Absent)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent, necrotic toes distally
   Musculoskeletal: Muscle wasting, Unable to stand
   Skin:  Cool
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   9.9 g/dL
   276 K/uL
   149 mg/dL
   3.1 mg/dL
   28 mEq/L
   4.8 mEq/L
   25 mg/dL
   102 mEq/L
   140 mEq/L
   32.5 %
   19.3 K/uL
        [image002.jpg]
                             [**2177-2-4**]  12:01 AM
                             [**2177-2-4**]  01:50 AM
                             [**2177-2-4**]  05:37 AM
   WBC
   16.9
   19.3
   Hct
   31.3
   32.5
   Plt
   282
   276
   Cr
   3.0
   3.1
   TropT
   0.95
   Glucose
   184
   149
   Other labs: PT / PTT / INR:15.3/34.3/1.3, CK / CKMB /
   Troponin-T:42//0.95, Lactic Acid:1.0 mmol/L, Ca++:8.3 mg/dL, Mg++:1.8
   mg/dL, PO4:2.3 mg/dL
   Assessment and Plan
   1. Hematochezia:  With negative NG lavage most likely lower GIB, stable
   s/p 2 u pRBCs, awaiting colonoscopy
    - prepped for colonoscopy this morning
    - f/u q 8 hr hct
    - cont PPI, IVPPI not indicated
    - previously on asa/plavix, being held at the moment in setting of
   bleed
    - will await [**Last Name (un) **] results and then d/w vascular re when to restart
   asa/plavix
    - access is HD line and PICC
   2. Leukocytosis: with sacral ulcer and necrotic toes most likely
   source, on vanc/cipro/flagyl
    - cont abx per ID
    - surveillance cx given bump in wbc (which is likely stress response)
   3. ESRD:
    - on HD, renally dose all meds
   4. DM1:
    - NPO for now, on 'bedtime' insulin dosing
   5. S/p L fempop: vasc following
   6. Pain: [**1-14**] sacral decub: getting dilaudid 0.25 prn
   7. FEN: npo for now, adat post colonoscopy
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2177-2-3**] 06:29 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill
   ------ Protected Section ------
   Critical Care Attending Addendum
   I saw and examined the pt, and was present with the ICU team for the
   key portions of services provided. I agree with Dr. [**Last Name (STitle) 5651**]
s note
   including assessment and plan, and would add/emphasize:
   52 yo female with PVD, ESRD on HD, CAD s/p CABG admitted [**1-16**] to
   Vascular Surgery for bilateral lower extremity ischemia. Course
   complicated by AMS, acute respiratory failure resolved after
   thoracentesis of a pleural effusion, persistent leukocytosis.
   Transferred to ICU yesterday for rectal bleed.
   Overnight, no further bleeding, Hct
s unchanged, NG negative. Trauma
   line attempted, but unable to thread wire. Colonoscopy recommended, pt
   refusing
   BP stable until this afternoon when pt converted from SR
 SVT ([**Street Address(2) 11697**] depressions V4-6, J pt elevation I, avL. BP dwinding down, but
   plummeted with 5 mg IV metoprolol
3 liters NS, 1 unit blood, neo gtt
   given, arteria line established.
   Uncomforttable, transiently dizzy but resolved when BP up
   Neck: dressing at site of attempted left IJ access soaked w/blood
   Lungs: CTA
   CV: RRR
   Abd: +bs, soft, nt
   Ext: distal toe necrosis
   Hct
s low 30
s in ICU, lactate 1, WBC 17-19
   Problem [**Name (NI) **]-
   1.       [**Name2 (NI) **]sion/shock- requiring volume resuscitation and neo
   since this afternoon, in the setting of SVT/beta blocker. Cause likely
   multifactorial from meds/cardiac/volume depletion. Could also be septic
   given leukocytosis with concerns for infection, though timing would be
   coincidental. Plan volume resuscitation with consideration of vigileo
   to gauge fluid status, neo for MAP>65, re-trend hct
s and cardiac
   enzymes
   2.       Junctional tachycardia/ECG changes- likely [**1-14**] demand
   ischemia. Hold B-blocker as pt
s BP didn
t tolerate, per cards could
   consider amiodaone if tachycardia persists despite fluids
   3.       GI bleed, presumed lower source- currently without active
   bleeding
   4.       PVD- ASA/plavix/SQ heparin held during acute bleed, will
   re-start agents singly (ASA first)
   5.       Acute respiratory distress: pt previously with n
l oxygen sats
   on RA, requiring up to NRB after fluid resuscitation but weaned to
   n.c.  later this afternoon. Presumably from fluid overload. As pt is
   [**Name (NI) 329**] and has ESRD, do need to be cautious abt fluids but can continue so
   far as oxygen requirement is not too high and BP is fluid responsive.
   6.       Leukocytosis: On broad abx for \HAP, colitis, skin as
   suspected sources with ID following.
   Pt is critically ill. Total time spent: 80 minutes.
   ------ Protected Section Addendum Entered By:[**Name (NI) 749**] [**Last Name (NamePattern1) **], MD
   on:[**2177-2-4**] 17:40 ------

2177-02-05 12:47:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 EKG - At [**2177-2-4**] 07:13 PM
 ARTERIAL LINE - START [**2177-2-4**] 08:49 PM
   - flipped into SVT in 130s with ST depressions [**Last Name (LF) 11703**], [**First Name3 (LF) **]
   elevations I/avF, likely junctional tachycardia
   - pushed metoprolol 5 mg IV, BP fell into 40s shortly after
   - emergently accessed HD line for high-volume fluid resusitation
   - BP stabilized with IVF and neo in low 90s
   - flipped back into NSR, but BP still tenuous
   - started vasopressin with improvement in BP, weaned off neo
   - readdressed goals of care with family - definitely has wanted to be
   DNR/DNI, everything possible for comfort, re-confirmed with patient no
   chest compressions
   - BRB streaking stool
   - no HD for today, call them if moving toward CVVH in goals of care
   Allergies:
   Darvon (Oral) (Propoxyphene Hcl)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Ciprofloxacin - [**2177-2-4**] 10:47 PM
   Metronidazole - [**2177-2-5**] 08:30 AM
   Infusions:
   Vasopressin - 2.4 units/hour
   Amiodarone - 0.5 mg/min
   Other ICU medications:
   Hydromorphone (Dilaudid) - [**2177-2-4**] 09:40 PM
   Amiodarone - [**2177-2-5**] 05:12 AM
   Pantoprazole (Protonix) - [**2177-2-5**] 08:30 AM
   Lorazepam (Ativan) - [**2177-2-5**] 12:41 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2177-2-5**] 12:47 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**78**] AM
   Tmax: 35.4
C (95.7
   Tcurrent: 35.1
C (95.2
   HR: 61 (61 - 133) bpm
   BP: 104/67(76) {104/40(60) - 132/97(100)} mmHg
   RR: 26 (20 - 31) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  8,517 mL
                                                                  1,149 mL
   PO:
                                                                  3,500 mL
             TF:
   IVF:
                                                                  4,361 mL
                                                                  1,149 mL
   Blood products:
                                                                    656 mL
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  8,517 mL
                                                                  1,149 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: 7.37/33/277/19/-4
   Physical Examination
   GEN: Uncomfortable/anxious patient.
   SKIN: Multiple petechiae on upper extremities
   HEENT: R tunneled IJ HD cath in place, no LD; JVP not elevated.  Neck
   supple, no thyromegaly appreciated
   CHEST: Poor inspiratory effort, decreased lung sounds at bases.
   CARDIAC: S1 & S2 regular without murmur
   ABDOMEN: Nontender or distended, BS present. NG Lavage negative for
   blood.
   GU/RECTAL: Large clot, approximately 3x5" by [**12-14**]" thick
   EXTREMITIES: multiple necrotic, black and amputated fingers & toes.
   NEUROLOGIC: Alert and appropriate, anxious. CN II-XII grossly intact.
   Labs / Radiology
   326 K/uL
   10.1 g/dL
   157 mg/dL
   3.3 mg/dL
   19 mEq/L
   4.9 mEq/L
   29 mg/dL
   110 mEq/L
   140 mEq/L
   32.1 %
   18.3 K/uL
        [image002.jpg]
                             [**2177-2-4**]  12:01 AM
                             [**2177-2-4**]  01:50 AM
                             [**2177-2-4**]  05:37 AM
                             [**2177-2-4**]  12:03 PM
                             [**2177-2-4**]  01:47 PM
                             [**2177-2-4**]  03:05 PM
                             [**2177-2-4**]  07:14 PM
                             [**2177-2-5**]  04:29 AM
   WBC
   16.9
   19.3
   17.0
   20.2
   18.3
   Hct
   31.3
   32.5
   31.9
   35.6
   32.1
   Plt
   282
   276
   292
   320
   326
   Cr
   3.0
   3.1
   3.1
   3.3
   3.3
   TropT
   0.95
   0.74
   0.88
   TCO2
   20
   Glucose
   184
   149
   96
   175
   157
   Other labs: PT / PTT / INR:18.3/37.1/1.7, CK / CKMB /
   Troponin-T:59//0.88, Lactic Acid:1.1 mmol/L, Ca++:7.3 mg/dL, Mg++:1.7
   mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
 HYPOTENSION (NOT SHOCK)
 .H/O GASTROINTESTINAL BLEED, LOWER (HEMATOCHEZIA, BRBPR, GI BLEED,
   GIB)
 IMPAIRED SKIN INTEGRITY
   A 52 yo lady with multiple medical problems transferred to the MICU for
   GI bleed, now with arrhythmia and shock.
   .
   # Arrhythma and shock:  She is intermittently flipping into SVT with
   unstable BP.  In general she is quite responsive to IVF boluses (8.5L
   net in yesterday), but it remains unclear why she requires so much
   fluids.  Vasopressin seems to be working better than neosynephrine as a
   pressor.  Amiodarone loaded this morning, and she just flipped back
   into NSR.
   - wean vasopressin
   - discuss with cardiology antiarrhythmic tx
   - likely will need to start PO amiodarone later today
   - support BP with IVF and vasopressin PRN
   - discuss with patient and family goals of care regarding ongoing
   pressors, etc
   .
   # Demand cardiac ischemia:  dynamic EKG changes in the setting of
   hypotension.  Per patient
s wishes and discussion with cardiology, no
   aggressive interventions planned.
   - Continue Atorvastatin 40mg PO daily
   - continue  ASA, holding plavix for now
   - Hold Beta Blocker while hypotensive
   - serial EKG
   #. Hematochezia:  Patient refused colonoscopy yesterday. She continues
   to have traces of blood per rectum but Hct stable.  This is very
   unlikely to be causing her unstable hemodynamic status.  ASA restarted
   yesterday.  Still holding Plavix
   - Maintain PICC.
   - HD line access for emergency
   - IV PPI [**Hospital1 **]
   - restart diet as tolerated today
   .
   #. Leukocytosis: Patient's primary medical problem prior to transfer to
   the ICU.  ID following, source still uncertain and no clear pattern to
   WBC.  If she has infarcted bowel, translocation becomes a serious
   concern.  Skin source from wounds/necrotic digits also possible.
   - Follow ID recs-  recommend stopping all antibiotics given no evidence
   of infection
 doing so now
   - F/U Cultures, stool studies
   .
   # ESRD on HD s/p failed renal transplant: followed by nephrology.
   Undergoes MWF dialysis.  No urgent indication for HD at this time.
   - continue nephrocaps, calcium acetate, Zinc (pending PO tolerance)
   - HD MWF  but will not do today because of hemodynamic instability
   - per renal, may need CVVH if remains hemodynamically unstable
 would
   need to re-address goals of care with family
   .
   # Type 1 DM: followed by [**Last Name (un) 276**].
   - continue long acting insulin with SSI as [**First Name8 (NamePattern2) **] [**Last Name (un) 276**] recs
   .  .
   # s/p L fem-[**Doctor Last Name 114**] BPG Angioplasty
   - appreciate vascular following patient
   - wound care recs per vascular
   - continue ASA, hold Plavix for now
   .
   ## normocytic anemia: suspect this is anemia of chronic disease from
   CKD, as her Hct is at baseline. No evidence of bleeding.
   - trend and continue to follow, will likely be obscured by
   bleeding/transfusions
   .
   # FEN: NPOs / replete lytes cautiously given HD
   # PPX: PPI, boots, bowel regimen
   # ACCESS: PICC, HD Line
   # CODE:  DNR/DNI Confirmed
   # CONTACT: [**Name (NI) 53**], husband
   # DISPOSITION:
   [ ] Floor pending further investigation
   [ ] Floor pending
   [ ] Stepdown / [**Hospital Unit Name 4282**]
   [x] ICU